US08030498B2
To a stirred mixture of 3-methoxy-2-methyl-4-(methylsulfonyl)benzoic acid (340 mg, 1.39 mmol) and 5-hydroxy-1-methylpyrazole hydrochloride (230 mg) in anhydrous methylene chloride (10 mL) were added DCC (dicyclohexylcarbodiimide) (315 mg) and triethylamine (260 mg) at room temperature, followed by stirring for 2 hours. The reaction mixture was subjected to filtration through Celite, the filtrate was concentrated, and the obtained residue was dissolved in 10 mL of anhydrous acetonitrile. Triethylamine (260 mg) and acetone cyanohydrin in a catalytic amount were added thereto, and the reaction solution was stirred overnight at room temperature. 150 mL of ethyl acetate was added, and the solution was washed once with a 1N hydrochloric acid aqueous solution and washed once with a saturated brine. The organic layer was dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:methanol=9:1) to obtain 5-hydroxy-1-methylpyrazol-4-yl 3-methoxy-2-methyl-4-(methylsulfonyl)phenyl ketone (115 mg).

reactant | 3-methoxy-2-methyl-4-(methylsulfonyl)benzoic acid | 1.39 mmol, 340 mg | COC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C10H12O5S
reactant | 5-hydroxy-1-methylpyrazole hydrochloride | 230 mg | Cl.OC1=CC=NN1C
reactant | DCC | 315 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 260 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-hydroxy-1-methylpyrazol-4-yl 3-methoxy-2-methyl-4-(methylsulfonyl)phenyl ketone | 115 mg | COC=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C=NN(C1O)C)C | C14H16N2O5S
